US07915424B2
3-(3,4-Difluorophenylethynyl)-pyridine
Prepare essentially as described in EXAMPLE 46 using 3-iodopyridine (445 mg, 2.17 mmol) and 4-ethynyl-1,2-difluorobenzene, (prepared essentially as described in PREPARATION 14), (300 mg, 2.17 mmol) to give the title compound (87.6 mg, 21%).

reactant | 3-iodopyridine | 2.17 mmol, 445 mg | IC=1C=NC=CC1 | C5H4IN
reactant | 4-ethynyl-1,2-difluorobenzene | C(#C)C1=CC(=C(C=C1)F)F | C8H4F2
product | 3-(3,4-Difluorophenylethynyl)-pyridine | 87.6 mg, 21% | FC=1C=C(C=CC1F)C#CC=1C=NC=CC1 | C13H7F2N
